US05440044
(5RS)-5-Hydroxy-5-{6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-2-pyridyl}-pentanoic acid methyl ester
A solution of 326 mg of 2-bromo-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine in 5 ml of tetrahydrofuran is mixed with 1.25 ml of n-butyllithium (1.6 molar in hexane) at -78° C. with stirring and under argon atmosphere. After 10 minutes, a solution of 5-oxo-pentanoic acid methyl ester in 1 ml of tetrahydrofuran is added at -78° C. and stirred for 2 hours at this temperature. The reaction mixture is mixed with water, shaken out with dichloromethane, dried on sodium sulfate, concentrated by evaporation and the crude product is chromatographed on silica gel with hexane/ethyl acetate 98/2. 188 mg of the title compound is thus obtained as colorless oil.

reactant | 2-bromo-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine | 326 mg | BrC1=NC(=CC=C1)\C=C\C(CCCCCCCC)O | C16H24BrNO
reactant | n-butyllithium | 1.6 molar, 1.25 ml | C(CCC)[Li]
reactant | 5-oxo-pentanoic acid methyl ester | COC(CCCC=O)=O | C6H10O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (5RS)-5-Hydroxy-5-{6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-2-pyridyl}-pentanoic acid methyl ester | 188 mg | COC(CCCC(C1=NC(=CC=C1)\C=C\C(CCCCCCCC)O)O)=O | C22H35NO4
